US06465513B1
Step B: Preparation of Methyl 3-Acetyladamantane-1-carboxylate
Under nitrogen, a chilled (0° C.) diethyl ether suspension of copper (1) iodide (3.0 eq) was treated with methyl lithium (6.0 eq, 1.4 M in ethyl ether). The resulting solution was chilled to −78° C. and after ten minutes a chilled (−30° C.) diethyl ether solution of 3-methoxycarbonyladamantane-1-carboxylic acid chloride was added dropwise over a five minute period. The reaction was stirred for 45 minutes at −78° C. and then quenched with MeOH (11.0 eq) and allowed to warm to room temperature. After addition of Et2O and saturated aqueous ammonium chloride solution, the mixture was stirred for ten minutes and then the organic phase was washed with saturated NH4Cl, saturated NaHCO3, brine, dried (MgSO4), filtered and concentrated to a volatile oil, which was used without further purification.

reactant | methyl lithium | 1.4 M, 6.0 eq | C[Li]
reactant | 3-methoxycarbonyladamantane-1-carboxylic acid chloride | COC(=O)C12CC3(CC(CC(C1)C3)C2)C(=O)Cl | C13H17ClO3
reactant | MeOH | 11.0 eq | CO | CH4O
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | copper (1) iodide | 3.0 eq | [Cu]I
solvent | Et2O | CCOCC | C4H10O
solvent | diethyl ether | C(C)OCC | C4H10O
product | Methyl 3-Acetyladamantane-1-carboxylate | C(C)(=O)C12CC3(CC(CC(C1)C3)C2)C(=O)OC | C14H20O3
